US05108363
(b) Preparation of 4-(4-carbamoylphenyl)-2-butanone
To a stirred solution of 9.70 g (0.056) mole of 4-(4-cyanophenyl)-2-butanone (the product of step (a)) in 15 ml of methanol, 1.80 g of potassium bicarbonate and 0.20 g of potassium carbonate were added. To the resulting mixture, 10.0 ml (0.088 mole) of 30% hydrogen peroxide was added dropwise over an hour. The reaction mixture was stirred for 24 hours and then chilled. The solid was collected by filtration, was rinsed twice with water and was dried to give 9.67 g of the above-identified product, melting point 152°-154° C. The 1H NMR was consistent with the assigned structure.

reactant | 4-(4-cyanophenyl)-2-butanone | C(#N)C1=CC=C(C=C1)CCC(C)=O | C11H11NO
reactant | potassium bicarbonate | 1.80 g | C([O-])(O)=O.[K+]
reactant | hydrogen peroxide | 0.088 mole, 10.0 ml | OO | H2O2
solvent | methanol | 15 ml | CO | CH4O
catalyst | potassium carbonate | 0.20 g | C([O-])([O-])=O.[K+].[K+]
product | 4-(4-carbamoylphenyl)-2-butanone | 9.67 g | C(N)(=O)C1=CC=C(C=C1)CCC(C)=O | C11H13NO2
